US04783530
6-Amino-3-methyl-5-(4-cyanophenyl)imino-1-n-propyluracil (5.00 g, 17.4 mmol) is dissolved in 75 ml of glyme and 4.2 ml (21.4 mmol) of diisopropylazodicarboxylate is added. The solution is then brought to reflux. The solution is refluxed 30 minutes and then filtered hot. The filter cake is washed with glyme (3×20 ml) and ether (3×30 ml) and airdried to give 1-methyl-8-(4-cyanophenyl)-3-n-propylxanthine.

reactant | 6-Amino-3-methyl-5-(4-cyanophenyl)imino-1-n-propyluracil | 17.4 mmol, 5.00 g | NC1C(C(N(C(N1CCC)=O)C)=O)=NC1=CC=C(C=C1)C#N | C15H17N5O2
reactant | diisopropylazodicarboxylate | 21.4 mmol, 4.2 ml | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | glyme | 75 ml | C(OC)COC | C4H10O2
product | 1-methyl-8-(4-cyanophenyl)-3-n-propylxanthine | CN1C(=O)N(C=2N=C(NC2C1=O)C1=CC=C(C=C1)C#N)CCC | C16H15N5O2
